US08871756B2
N-(2,2-Difluoroethyl)-N′-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]ethane-1,2-diamine
The title compound was prepared in analogy to Example 5-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and N-(2,2-difluoroethyl)ethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 461, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (dd, J=7.83, 1.26 Hz, 1 H), 7.83 (d, J=6.82 Hz, 1 H), 7.60 (td, J=7.45, 1.26 Hz, 2 H), 7.46-7.38 (m, 2 H), 7.28 (dd, J=8.59, 1.77 Hz, 1 H), 6.04 (s, 1 H), 5.13 (s, 2 H), 3.58 (t, J=4.80 Hz, 2 H), 3.46 (t, J=6.19 Hz, 2 H), 3.37 (s, 3 H), 3.10-2.97 (m, 4 H), 2.41 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | N-(2,2-difluoroethyl)ethane-1,2-diamine | FC(CNCCN)F | C4H10F2N2
product | N-(2,2-Difluoroethyl)-N′-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]ethane-1,2-diamine | FC(CNCCNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)F | C23H26F2N4O2S
